datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C1CCc2n[n:10]c3c(c2CC1)CCCC3.COc1cc(OC)nc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])n1>>C1CCc2n[n+:10]([H:20])c3c(c2CC1)CCCC3.COc1cc(OC)nc([N-:21]S(=O)(=O)c2ccc(N)cc2)n1 10=20;20,21=21",
"O=C(c1cc([N+](=O)[O-])ccc1F)[O-:10].[NH3+]CCC(=O)[O:21][H:20]>>O=C(c1cc([N+](=O)[O-])ccc1F)[O:10][H:20].[NH3+]CCC(=O)[O-:21] 10=20;20,21=21",
"Cc1cc([N+](=O)[O-])ccc1[NH2+:21][H:20].O=C(CCCl)[O-:10]>>Cc1cc([N+](=O)[O-])ccc1[NH2:21].O=C(CCCl)[O:10][H:20] 10=20;20,21=21",
"C[As](C)(C)=[O+:21][H:20].Cn1cnc2nc(N)[nH+]c([O-:10])c21>>C[As](C)(C)=[O:21].Cn1cnc2nc(N)[nH+]c([O:10][H:20])c21 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O:21][H:20].CC(C(=O)[O-])[NH2:10]>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-:21].CC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"CCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C(Cl)C([N+](=O)[O-])=C1)[H:20]>>CCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C(Cl)C([N+](=O)[O-])=C1 10=20;20,21=21",
"C=CC[NH:10]CC=C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C=CC[NH+:10](CC=C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Cc1cc(Cn2c(C)cc(C)[n+:21]2[H:20])nn1C.Nc1nc[n:10]c2c1cnn2-c1ccccc1>>Cc1cc(Cn2c(C)cc(C)[n:21]2)nn1C.Nc1nc[n+:10]([H:20])c2c1cnn2-c1ccccc1 10=20;20,21=21",
"CC1=NCCc2c1[n-:10]c1ccccc21.Cn1ccc(N)[n+:21]1[H:20]>>CC1=NCCc2c1[n:10]([H:20])c1ccccc21.Cn1ccc(N)[n:21]1 10=20;20,21=21",
"CC[N+:21](CC)(Cc1cc(Cl)cc(Cl)c1[O-])[H:20].C[N:10]1CC=CC1>>CC[N:21](CC)Cc1cc(Cl)cc(Cl)c1[O-].C[N+:10]1([H:20])CC=CC1 10=20;20,21=21",
"CCN(C)CCOCC[N:10](CC)CC.Cc1cc(C)[n+:21]([H:20])c(N)n1>>CCN(C)CCOCC[N+:10](CC)(CC)[H:20].Cc1cc(C)[n:21]c(N)n1 10=20;20,21=21",
"Cc1cc(O)ccc1C(=O)[O:21][H:20].Nc1cnc2c(N)nc(N)[n:10]c2n1>>Cc1cc(O)ccc1C(=O)[O-:21].Nc1cnc2c(N)nc(N)[n+:10]([H:20])c2n1 10=20;20,21=21",
"Cc1coc(C)c1C(=O)[O:21][H:20].c1ccc(Cc2c([O-:10])n[nH]c2-c2ccccc2)cc1>>Cc1coc(C)c1C(=O)[O-:21].c1ccc(Cc2c([O:10][H:20])n[nH]c2-c2ccccc2)cc1 10=20;20,21=21",
"CC(C)[NH:10]CCc1ccc([O-])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)[NH+:10](CCc1ccc([O-])cc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(/C=C/C(=O)[O-])c1cc(Br)ccc1[O:21][H:20].CC[N:10](CC)CCS(=O)(=O)c1ccc(OC)c(OC)c1OC>>CC(C)(/C=C/C(=O)[O-])c1cc(Br)ccc1[O-:21].CC[N+:10](CC)(CCS(=O)(=O)c1ccc(OC)c(OC)c1OC)[H:20] 10=20;20,21=21",
"CC1CC[NH:10]C(C)(C)C1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC1CC[NH+:10]([H:20])C(C)(C)C1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC([NH3+])C(=O)[O-:10].CCC1CSC(C(C)C)=[N+:21]1[H:20]>>CC([NH3+])C(=O)[O:10][H:20].CCC1CSC(C(C)C)=[N:21]1 10=20;20,21=21",
"Cc1ccc([N+](C)(C)C)cc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc([N+](C)(C)C)cc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)c1ncc2[nH]c[n+:21]([H:20])c2n1.Nc1ncnc2nc[n-:10]c12>>CN(C)c1ncc2[nH]c[n:21]c2n1.Nc1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"CC(Cc1ccccc1)[N+:21](C)(CCC#N)[H:20].COc1ccc(C(=O)[O-:10])cc1C>>CC(Cc1ccccc1)[N:21](C)CCC#N.COc1ccc(C(=O)[O:10][H:20])cc1C 10=20;20,21=21",
"C1=C(c2nc3ccccc3o2)C2CC[N+:21]1([H:20])CC2.[NH3+]CCCCc1cccc[n:10]1>>C1=C(c2nc3ccccc3o2)C2CC[N:21]1CC2.[NH3+]CCCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"N#Cc1ccc([N:21](S(=O)(=O)c2ccccc2)[H:20])cc1.[NH3+]CC(=O)C[NH2:10]>>N#Cc1ccc([N-:21]S(=O)(=O)c2ccccc2)cc1.[NH3+]CC(=O)C[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cc(C(C)(C)C)cc(C)c1C(=O)[O:21][H:20].N#Cc1cccc(C(=O)[O-:10])c1>>Cc1cc(C(C)(C)C)cc(C)c1C(=O)[O-:21].N#Cc1cccc(C(=O)[O:10][H:20])c1 10=20;20,21=21",
"O=C(C1CCCOC1)[O-:10].O=[N+]([O-])c1ccc(B(O)[O:21][H:20])cc1>>O=C(C1CCCOC1)[O:10][H:20].O=[N+]([O-])c1ccc(B(O)[O-:21])cc1 10=20;20,21=21",
"COc1ccc(C(=O)O[C@H]2O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]2O)cc1OC.O=C1C[C@H]2OCC=C3C[N:10]4CC[C@@]56c7ccccc7N1[C@@H]5[C@@H]2[C@@H]3C[C@H]64>>COc1ccc(C(=O)O[C@H]2O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]2O)cc1OC.O=C1C[C@H]2OCC=C3C[N+:10]4([H:20])CC[C@@]56c7ccccc7N1[C@@H]5[C@@H]2[C@@H]3C[C@H]64 10=20;20,21=21",
"CC[N+:21](CC)(C(C)C=C(c1cccs1)c1cccs1)[H:20].Cc1cc(O)n(-c2nc([O-])c(C)c(C)[n:10]2)n1>>CC[N:21](CC)C(C)C=C(c1cccs1)c1cccs1.Cc1cc(O)n(-c2nc([O-])c(C)c(C)[n+:10]2[H:20])n1 10=20;20,21=21",
"Cc1ccc(C(=S)[N:21](c2ccc(Cl)cc2)[H:20])cc1.Cc1ccc2ccc3cccnc3c2[n:10]1>>Cc1ccc(C(=S)[N-:21]c2ccc(Cl)cc2)cc1.Cc1ccc2ccc3cccnc3c2[n+:10]1[H:20] 10=20;20,21=21",
"CC[N:10](CC)CCNc1nc(C)cc(Nc2ccc(Cl)cc2)n1.CC[NH2+]CCCC(=O)[O:21][H:20]>>CC[N+:10](CC)(CCNc1nc(C)cc(Nc2ccc(Cl)cc2)n1)[H:20].CC[NH2+]CCCC(=O)[O-:21] 10=20;20,21=21",
"CCN(CC)/[N:10]=C(/C)N.O=C1C[C@@H](C(=O)[O:21][H:20])[C@@H](C(=O)[O-])O1>>CCN(CC)/[N+:10](=C(/C)N)[H:20].O=C1C[C@@H](C(=O)[O-:21])[C@@H](C(=O)[O-])O1 10=20;20,21=21",
"Nc1cc(/C=C/c2ccccc2)[n:10]c(/C=C/c2ccccc2)c1.S=C1OCC[N:21]1[H:20]>>Nc1cc(/C=C/c2ccccc2)[n+:10]([H:20])c(/C=C/c2ccccc2)c1.S=C1OCC[N-:21]1 10=20;20,21=21",
"CC(=O)N(C)CC(=O)[O:21][H:20].CC[NH+](CC)CCCCCCNc1c2cc(OC)ccc2[n:10]c2cc(Cl)ccc12>>CC(=O)N(C)CC(=O)[O-:21].CC[NH+](CC)CCCCCCNc1c2cc(OC)ccc2[n+:10]([H:20])c2cc(Cl)ccc12 10=20;20,21=21",
